US07067540B2
Step 1: Preparation of 3-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylbenzoic acid.
3-[4-[(2,4-Difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylbenzoic acid (from above) (7.5 g, 19.4 mmol) and NCS (2.6 g, 19.4 mmol) were taken up in 65° C. dichloroethane (100 ml). A catalytic amount of dichloroacetic acid (2 drops) was added. After two hours the solvent was removed in vacuo and the residue was taken up in diethyl ether. The precipitate was collected on a filter pad and then taken up in 50% ethyl acetate/hexanes to remove residual succinimide. The precipitate was collected on a filter pad and then dried in vacuo to produce a white powder (4.2 g, 52%). 1H NMR (300 MHz, CD3OD) δ 8.10 (dd, J=7.85 1.81 Hz, 1H), 7.83 (d, J=8.26, 1.81 Hz, 1H), 7.40 (app q, J=8.26 Hz, 1H), 7.58 (d, J=7.85 Hz, 1H), 7.13-7.06 (m, 2H), 6.74 (s, 1H), 5.40 (s, 2H), 2.14 (s, 3H), 2.04 (s, 3H); ES-MS m/z 420 (M+H). ES-HRMS m/z 420.0786 (M+H calcd for C21H17ClF2NO4 requires 420.0809).

reactant | 3-[4-[(2,4-Difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylbenzoic acid | 19.4 mmol, 7.5 g | FC1=C(COC2=CC(N(C(=C2)C)C=2C=C(C(=O)O)C=CC2C)=O)C=CC(=C1)F | C21H17F2NO4
reactant | NCS | 19.4 mmol, 2.6 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
catalyst | dichloroacetic acid | 2 drops | ClC(C(=O)O)Cl | C2H2Cl2O2
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
product | 3-[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylbenzoic acid | 4.2 g, 52% | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C=1C=C(C(=O)O)C=CC1C)=O | C21H16ClF2NO4
